US07098342B2
Typically, the deprotection step comprises heating to reflux trityl candesartan cilexetil in methanol. Optionally, the deprotection solvent mixture further comprises an organic solvent, such as toluene, and/or an acid, such as formic acid. The cilexetil trityl candesartan is heated to reflux until a clear solution is obtained. Typically, the reaction temperature is from about 30° C. to about 90° C., preferably from about 50° C. to about 90° C., and the heating takes place for about 5 to about 19 hours, preferably for about 8 to about 12 hours. Thereafter, the solvents are removed by evaporation to obtain crude deprotected candesartan cilexetil. The solvents may be removed at a temperature of about 30° C. to about 70° C., preferably at a temperature of about 50° C., and at a reduce pressure of about 30 mbar.

reactant | trityl candesartan cilexetil | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)OC(C)OC(=O)OC9CCCCC9 | C52H48N6O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | formic acid | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
product | candesartan cilexetil | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
